US09403810B2
Step 3: Spiro[4.5]dec-7-en-8-yl trifluoromethanesulfonate
1.6M n-BuLi in hexane (1.900 mL, 3.04 mmol) was added to a stirred solution of diisopropylamine (0.454 mL, 3.19 mmol) in dry THF (20 mL) under nitrogen at −78° C. The solution was allowed to warm to 0° C. for 20 minutes before re-cooling to −78° C. A solution of spiro[4.5]decan-8-one (0.440 g, 2.89 mmol) in dry THF (5 mL) was added over 5 minutes and the solution was stirred at −78° C. for 50 minutes before adding a solution of 2-[N,N-Bis(trifluoromethylsulfonyl)amino]pyridine (Alfa Aesar) (1.141 g, 3.19 mmol) in dry THF (5 mL). The mixture was stirred and allowed to warm to room temperature overnight. The resulting mixture was quenched with saturated aqueous NaHCO3 (4 mL). The aqueous portion was extracted with TBME (×2) and the combined organic extracts were washed with 10% aqueous NaOH, brine, dried over MgSO4, filtered and concentrated under reduced pressure. The crude material was adsorbed onto silica and purification by chromatography eluting with 0-30% EtOAc in iso-hexane afforded the title compound.

reactant | n-BuLi | 1.6M | [Li]CCCC
reactant | hexane | 3.04 mmol, 1.900 mL | CCCCCC | C6H14
reactant | diisopropylamine | 3.19 mmol, 0.454 mL | C(C)(C)NC(C)C | C6H15N
reactant | spiro[4.5]decan-8-one | 2.89 mmol, 0.440 g | C1CCCC12CCC(CC2)=O | C10H16O
reactant | 2-[N,N-Bis(trifluoromethylsulfonyl)amino]pyridine | 3.19 mmol, 1.141 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=NC=CC=C1)(F)F | C7H4F6N2O4S2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Spiro[4.5]dec-7-en-8-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CCC2(CCCC2)CC1)(F)F | C11H15F3O3S
